US06107324
N-[3-(4-bromo-1-methylpyrazol-3-yl)phenyl][4-methoxyphenoxy]carboxamide
To 4-methoxyphenylchloroformate (19 mg, 0.10 mmol) in CH2Cl2 (0.5 mL) was added dropwise a solution of 3-(3-aminophenyl)-4-bromo-1-methylpyrazole (25 mg, 0.10 mmol) and triethylamine (14 μL, 0.10 mmol) in CH2Cl2 (0.5 mL). The mixture was stirred for 16 h and concentrated. Chromatography on flash silica (40% EtOAc/hexane) gave the title compound as a colourless solid (21 mg, 52%), m.p. 140.3-141.8° C. (EtOAc/hexane).

reactant | 4-methoxyphenylchloroformate | 0.10 mmol, 19 mg | COC1=CC=C(C=C1)OC(=O)Cl | C8H7ClO3
reactant | 3-(3-aminophenyl)-4-bromo-1-methylpyrazole | 0.10 mmol, 25 mg | NC=1C=C(C=CC1)C1=NN(C=C1Br)C | C10H10BrN3
reactant | triethylamine | 0.10 mmol, 14 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(4-bromo-1-methylpyrazol-3-yl)phenyl][4-methoxyphenoxy]carboxamide | 21 mg, 52% | BrC=1C(=NN(C1)C)C=1C=C(C=CC1)NC(=O)OC1=CC=C(C=C1)OC | C18H16BrN3O3
